*IRFD312 MCE 5/15/98
*400V  .3A 3.6 ohm Power MOSFET pkg:DIP4 3,1,2
.SUBCKT IRFD312  10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  1.71
RS  40  3  91M
RG  20  2  500
CGS  2  3  127P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  103P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  6N
.MODEL DMOS NMOS (LEVEL=3 VMAX=833K THETA=60M ETA=2M VTO=3 KP=6.36)
.MODEL DCGD D (CJO=103P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=1.25N N=1.5 RS=2.83 BV=400 CJO=116P VJ=0.8 M=0.42 TT=380N)
.MODEL DLIM D (IS=100U)
.ENDS 


